US06403638B1
1-t-butyl-4,4-dimethyl-7-bromo-3,4-dihydronaphthalene (Compound 16)
A mixture of the crude 1-t-butyl-1-hydroxy 4,4-dimethyl-7-bromo-1,2,3,4-tetrahydronaphthalene , MeOH (30 mL) and p-TSA (150 mg) were heated for 17 h at 70° C. Reaction mixture was cooled to ambient temperature and solid K2CO3 was added and the MeOH was removed by evaporation. The residue was diluted with ether. The ether layer was washed with water and brine and the ether was dried (MgSO4) and removed by evaporation. Purification by silica gel chromatography yielded 1.65 g (28%, in two steps) the title compound as a clear oil.

reactant | 1-t-butyl-1-hydroxy 4,4-dimethyl-7-bromo-1,2,3,4-tetrahydronaphthalene | C(C)(C)(C)C1(CCC(C2=CC=C(C=C12)Br)(C)C)O | C16H23BrO
reactant | p-TSA | 150 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 30 mL | CO | CH4O
product | 1-t-butyl-4,4-dimethyl-7-bromo-3,4-dihydronaphthalene | C(C)(C)(C)C1=CCC(C2=CC=C(C=C12)Br)(C)C | C16H21Br
